US08981150B2
In a three-neck flask, at 20° C. and under an inert atmosphere, are mixed ethyl 2-hydroxycaproate (24.24 g; 150 mmol) and sodium methylate in solution in methanol (25% w/w) (1.6 g; 7 mmol). To this mixture, is added dimethylamine in solution in methanol (50% w/w) (26.75 g; 297 mmol) within 30 minutes. The temperature of this mixture is brought to 40° C. and maintained for 3 hours. After the return of the temperature of this reaction mixture to 20° C., orthophosphoric acid is added until a pH of 5 is obtained. The salts formed are removed by filtration and the solvents are removed under reduced pressure. 2-hydroxy-N,N-dimethylhexanamide is then obtained with a purity of 98%, i.e. a yield of 81%.

reactant | ethyl 2-hydroxycaproate | 150 mmol, 24.24 g | OC(C(=O)OCC)CCCC | C8H16O3
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 7 mmol, 1.6 g | CO | CH4O
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 297 mmol, 26.75 g | CO | CH4O
reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2-hydroxy-N,N-dimethylhexanamide | yield of 81% | OC(C(=O)N(C)C)CCCC | C8H17NO2
